US07504508B2
(2S,4R)-4-(4-{4-[Acetyl-(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenoxy)-2-methyl-butyric acid methyl ester (H-136)
(2S,4R)-N-(4-Chloro-phenyl)-N-[1-(4-hydroxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide (230 mg, 0.531 mmol) was dissolved in DMF (5 mL) at room temperature. Cs2CO3 (433 mg, 1.33 mmol) was added followed by 4-chloro-2-methyl-butyric acid methyl ester (120 mg, 0.796 mmol) and the reaction was allowed to stir overnight. The mixture was partitioned between methylene chloride and water; the organic layer was dried over Na2SO4, filtered and concentrated. The crude residue was purified by silica gel chromatography (1/1 hexanes/ethyl acetate—ethyl acetate gradient) to afford the product.

reactant | (2S,4R)-N-(4-Chloro-phenyl)-N-[1-(4-hydroxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-acetamide | 0.531 mmol, 230 mg | ClC1=CC=C(C=C1)N(C(C)=O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)O)=O)C | C25H23ClN2O3
reactant | Cs2CO3 | 1.33 mmol, 433 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4-chloro-2-methyl-butyric acid methyl ester | 0.796 mmol, 120 mg | COC(C(CCCl)C)=O | C6H11ClO2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (2S,4R)-4-(4-{4-[Acetyl-(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenoxy)-2-methyl-butyric acid methyl ester | COC([C@H](CCOC1=CC=C(C=C1)C(=O)N1C(C[C@H](C2=CC=CC=C12)N(C1=CC=C(C=C1)Cl)C(C)=O)C)C)=O | C31H33ClN2O5
